US07193078B2
In a round bottom flask containing a stirring bar was placed 9.0 g (100 mmol) of ethoxyethanol. The atmosphere in the flask was replaced with nitrogen by using a nitrogen bubbler. The flask was given 160 mL of methylene chloride and 23.3 mL (120 mmol) of 2,6-lutidine. The flask cooled with ice was given dropwise 20.2 mL (120 mmol) of trifluoromethanesulfonic acid anhydride over 20 minutes. After stirring for 1 hour, the reaction liquid was mixed with 20 mL of saturated solution of ammonium chloride. The resulting mixture was washed sequentially with 1N hydrochloric acid (100 mL), deionized water (100 mL), saturated solution of sodium hydrogen carbonate (100 mL), and saturated aqueous solution of sodium chloride (100 mL). The organic layer was separated and dried with anhydrous sodium sulfate. With the sodium sulfate filtered off, the solution was concentrated under reduced pressure. The residue underwent silica gel chromatography. Thus there was obtained 15.03 g (67.6% yields) of 2-ethoxyethyl triflate from the fraction in eluate of 20% ethyl acetate-hexane.

reactant | ethoxyethanol | 100 mmol, 9.0 g | C(C)OC(C)O | C4H10O2
reactant | 2,6-lutidine | 120 mmol, 23.3 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic acid anhydride | 120 mmol, 20.2 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 160 mL | C(Cl)Cl | CH2Cl2
product | 2-ethoxyethyl triflate | 15.03 g, 67.6% | O(S(=O)(=O)C(F)(F)F)CCOCC | C5H9F3O4S
